US04704450
7. Boc-Ile-Phe-Thr-Asn-Ser-OMe
A solution cooled on an ice bath of 5.14 g of TFA, H-Phe-Thr-Asn-Ser-OMe (8.78 mM) in 100 ml of DMF has 3.17 g of Boc-Ile-OSu (9.66 mM), 1.30 g of HOBt (9.62 mM) and N-ethyl morpholine added thereto until a pH of 7 is obtained. After 20 hours of reaction at ambient temperature, the solution is concentrated under reduced pressure and the residue taken up in ether gives a precipitate which is filtered and dried in vacuo. 5.24 g of product are obtained.

reactant | TFA | 5.14 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H-Phe-Thr-Asn-Ser-OMe | 8.78 mM | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CO)C(=O)OC | C21H31N5O8
reactant | Boc-Ile-OSu | 9.66 mM, 3.17 g | N([C@@H]([C@@H](C)CC)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
reactant | HOBt | 9.62 mM, 1.30 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl morpholine | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Boc-Ile-Phe-Thr-Asn-Ser-OMe | 5.24 g, Yield: 85.9% | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OC(C)(C)C | C32H50N6O11
